US05200417
5-Methoxy-1-[(benzylmethyl)amino]isoquinoline hydrochloride
5-Methoxy-1-chloroisoquinoline (J.A.C.S. (1947), 69, 1939) (1.5 g, 0.00777 mol) and benzylamine (1.67 g, 0.0156 mol) were mixed at room temperature and heated, with stirring, in an oil-bath at 150° for 4 hours. After cooling the mixture was equilibrated between CH2Cl2 and aqueous Na2CO3. The CH2Cl2 fraction was washed with water, dried and evaporated to dryness. The oil produced was dissolved in the minimum amount of methanol and aqueous 2N. HCl added to precipitate a buff solid which was collected, washed with water and dried (2.15 g). This material was crystallised from ethanol/methanol to give the title compound (1.40 g) as its hydrochloride salt, m.p. 247°-252° (Dec).

reactant | 5-Methoxy-1-chloroisoquinoline | 0.00777 mol, 1.5 g | COC1=C2C=CN=C(C2=CC=C1)Cl | C10H8ClNO
reactant | benzylamine | 0.0156 mol, 1.67 g | C(C1=CC=CC=C1)N | C7H9N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-1-[(benzylmethyl)amino]isoquinoline hydrochloride | 1.40 g | Cl.COC1=C2C=CN=C(C2=CC=C1)NCCC1=CC=CC=C1 | InChI=1S/C18H18N2O.ClH/c1-21-17-9-5-8-16-15(17)11-13-20-18(16)19-12-10-14-6-3-2-4-7-14;/h2-9,11,13H,10,12H2,1H3,(H,19,20);1H
